* 18V to 24V SEPIC, 200W (boost-ish: Vin < Vout)
* D=24/(24+18)=0.571, t_on=5.71u
Vin in 0 18
L1 in sw1 100u
M1 sw1 gate 0 0 NMOS W=1 L=1
C1 sw1 sw2 47u
L2 sw2 0 100u
D1 sw2 out DIODE
C2 out 0 470u
Rload out 0 2.88
Rbleed sw1 0 1Meg
Rbleed1 sw2 0 1Meg
Vgate gate 0 PULSE(0 12 0 1n 1n 5.71u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 1n 5m
.end
